US05059597
c) Octahydropyrrolo[3,4-b]pyridine
69 g (0.32 mol) of 6-benzyl-octahydropyrrolo[3,4-b]pyridine are hydrogenated in 450 ml of methanol over 7 g of palladium-on-active charcoal (5% strength) at 90° C./90 bar in the course of 3 hours. The catalyst is then filtered off, the filtrate is concentrated and the residue is distilled. 33.8 g (84% of theory) of a colorless solid having a melting point of 65°-67° C. and a boiling point of 78° C./9 mbar are obtained.

reactant | 6-benzyl-octahydropyrrolo[3,4-b]pyridine | 0.32 mol, 69 g | C(C1=CC=CC=C1)N1CC2NCCCC2C1 | C14H20N2
solvent | methanol | 450 ml | CO | CH4O
catalyst | palladium | 7 g | [Pd] | Pd
product | Octahydropyrrolo[3,4-b]pyridine | N1C2C(CCC1)CNC2 | C7H14N2
